US07205409B2
4-cyano-2-isopropyl-phenol
4-Bromo-2-isopropyl-phenol (500 mg, 2.3 mmol), Zn(CN)2 (270 mg, 2.3 mmol) and tetrakis(triphenylphosophine)palladium (237 mg) were mixed in DMF (1 mL) in a microwave reaction tube. It was reacted under microwave condition at 180° C. for 20 minutes. The mixture was filted and purified by by silica gel chromatography (40% -60% EtOAc/Hexane) to provide the title compound (220 mg, 60%). MS (DCI) m/z 162 (M+H)+.

reactant | 4-Bromo-2-isopropyl-phenol | 2.3 mmol, 500 mg | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 2.3 mmol, 270 mg | [C-]#N.[C-]#N.[Zn+2]
product | 4-cyano-2-isopropyl-phenol | 220 mg, 60% | C(#N)C1=CC(=C(C=C1)O)C(C)C | C10H11NO
